US03973035
alpha-Cyano-3-phenoxybenzyl 2,2-dichloro-3,3 dimethylcyclopropane carboxylate
2,2-Dichloro-3,3-dimethylcyclopropanoyl chloride (2.69g) was dissolved in dry toluene (50ml) and this solution was added dropwise to a stirred solution of 3-phenoxymandelonitrile (3.0g) and triethylamine (2.69g) in dry toluene (50ml) maintained at 10°C. The mixture was then stirred at room temperature for 16 hours. The mixture was filtered and the filtrate was washed in turn with 5 % sulphuric acid, saturated sodium bicarbonate and water, and then dried (Na2SO4). The solvent was removed under reduced pressure and the residue purified by chromatography on silica gel eluting in turn with toluene, 1 : 1 toluene/hexane and toluene. The required product was obtained as an oil nD20 1.5630.

reactant | 2,2-Dichloro-3,3-dimethylcyclopropanoyl chloride | 2.69g | ClC1(C(C1(C)C)C(=O)Cl)Cl | C6H7Cl3O
reactant | 3-phenoxymandelonitrile | 3.0g | O(C1=CC=CC=C1)C=1C=C(C(C#N)O)C=CC1 | C14H11NO2
reactant | triethylamine | 2.69g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50ml | C1(=CC=CC=C1)C | C7H8
product | alpha-Cyano-3-phenoxybenzyl 2,2-dichloro-3,3 dimethylcyclopropane carboxylate | ClC1(C(C1(C)C)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)Cl | C20H17Cl2NO3
